US08809361B2
Step 1: 2-(5-bromo-2-chloro-pyridin-4-ylmethyl)-2-hydroxy-7-aza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester
Lithium bis(trimethylsilyl)amide (1.0 mol/L in tetrahydrofuran; 8.0 mL) is added dropwise to 5-bromo-2-chloro-4-picoline (0.81 g) dissolved in tetrahydrofuran (10 mL) at −45° C. under Ar atmosphere. The solution is stirred at −35 to −45° C. for 0.5 h prior to dropwise addition of 2-oxo-7-aza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester (1.00 g) dissolved in tetrahydrofuran (5 mL). The reaction mixture is stirred at −40° C. for 45 min before the cooling bath is removed. At room temperature the reaction is quenched with aqueous NH4Cl solution and the resulting mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 4:1→1:1) to give the title compound. LC (method 1): tR=1.36 min; Mass spectrum (ESI+): m/z=445 [M+H]+.

reactant | Lithium bis(trimethylsilyl)amide | 1.0 mol/L, 8.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-bromo-2-chloro-4-picoline | 0.81 g | BrC=1C(=CC(=NC1)Cl)C | C6H5BrClN
reactant | 2-oxo-7-aza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(=O)N1CCC2(CC(C2)=O)CC1 | C13H21NO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(5-bromo-2-chloro-pyridin-4-ylmethyl)-2-hydroxy-7-aza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC(C2)(O)CC2=CC(=NC=C2Br)Cl)CC1 | C19H26BrClN2O3
